US04519937
Preparation of 4,4'-Diamino-3,3'-dibenzoylbiphenyl
4-Bromo-2-aminobenzophenone (0.55 g, 2.0 mmol) was dissolved in dry and deoxygenated dimethylformamide (10 ml) in an inert atmosphere box. To this was added in portions bis(1,5-cyclooctadiene)nickel (O) (0.55 g, 2.0 mmol). The reaction was moved from the inert atmosphere box to a vacuum-argon manifold using standard Schlenk-wave techniques. The reaction was heated at 5°-55° C. for 4 hrs. and left at room temperature overnight. The mixture was poured into 200 ml of water which was made slightly basic with sodium hydroxide. The water was extracted several times with ethyl acetate which after drying with sodium sulfate and evaporation gave a dark brown liquid (0.48 g). Recrystallization from hexane yielded 100 mg of yellow brown solid mp 180°-185° C.

reactant | 4-Bromo-2-aminobenzophenone | 2.0 mmol, 0.55 g | BrC1=CC(=C(C(=O)C2=CC=CC=C2)C=C1)N | C13H10BrNO
reactant | sodium hydroxide | [OH-].[Na+]
catalyst | bis(1,5-cyclooctadiene)nickel | 2.0 mmol, 0.55 g | C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Ni]
solvent | water | 200 ml | O | H2O
product | 4,4'-Diamino-3,3'-dibenzoylbiphenyl | 0.48 g | NC1=C(C=C(C=C1)C1=CC(=C(C=C1)N)C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O | C26H20N2O2
